US03962247
To 17.7 g. of N-(α-cyano-3,4-dimethoxybenzyl)piperazine was added 60 ml. of benzene and then 5.3 g. of pyridine. To the resulting solution was added dropwise 7.9 g. of pyrrolidylcarbonylmethyl chloride dissolved in 20 ml. of benzene over a period of about 10 minutes with stirring at room temperature. After dropping, the temperature was raised slowly and the mixture to separate benzene layer which was washed with water and dried over sodium sulfate. The solvent was distilled off to give 15 g. of N-(α-cyano-3,4-dimethoxybenzyl)-N'-pyrrolidinocarbonylmethylpiperazine as an oily substance. This product was dissolved in benzene and the resultant solution was saturated with dry hydrochloric gas to separate crystal which was collected by filtration. Recrystallization from iso-propanol afforded N-(α-cyano-3,4-dimethoxybenzyl)-N'-pyrrolidinocarbonylmethylpiperazine hydrochloride monohydrate having a melting point of 155° to 157°C.

reactant | N-(α-cyano-3,4-dimethoxybenzyl)piperazine | C(#N)C(C1=CC(=C(C=C1)OC)OC)N1CCNCC1 | C14H19N3O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | pyrrolidylcarbonylmethyl chloride | N1(CCCC1)C(=O)CCl | C6H10ClNO
reactant | N-(α-cyano-3,4-dimethoxybenzyl)-N'-pyrrolidinocarbonylmethylpiperazine | C(#N)C(C1=CC(=C(C=C1)OC)OC)N1CCN(CC1)CC(=O)N1CCCC1 | C20H28N4O3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(α-cyano-3,4-dimethoxybenzyl)-N'-pyrrolidinocarbonylmethylpiperazine hydrochloride monohydrate | O.Cl.C(#N)C(C1=CC(=C(C=C1)OC)OC)N1CCN(CC1)CC(=O)N1CCCC1 | InChI=1S/C20H28N4O3.ClH.H2O/c1-26-18-6-5-16(13-19(18)27-2)17(14-21)23-11-9-22(10-12-23)15-20(25)24-7-3-4-8-24;;/h5-6,13,17H,3-4,7-12,15H2,1-2H3;1H;1H2
